** sch_path: /foss/designs/BTDay7-Ex/bandgap_reference_temp.sch
**.subckt bandgap_reference_temp VBG v+ v- Vo1
*.opin VBG
*.iopin v+
*.iopin v-
*.iopin Vo1
V1 vdd GND 1.2
XM1 GND v+ v- GND sg13_lv_nmos w=7.14u l=5u ng=4 m=1 mm_ok=1
XM2 GND net1 net1 GND sg13_lv_nmos w=21u l=5u ng=8 m=1 mm_ok=1
XM3 v- Vo1 vdd vdd sg13_lv_pmos w=15u l=5u ng=8 m=1 mm_ok=1
XM4 v+ Vo1 vdd vdd sg13_lv_pmos w=15u l=5u ng=8 m=1 mm_ok=1
XM5 VBG Vo1 vdd vdd sg13_lv_pmos w=16u l=5u ng=8 m=1 mm_ok=1
XC3 VBG GND cap_cmim w=25.8e-6 l=25.8e-6 m=1 mm_ok=1
XR3 v+ net1 sub! rppd w=0.5e-6 l=194.345e-6 m=1 b=0 mm_ok=1
XR1 v+ GND sub! rppd w=0.5e-6 l=194.345e-6 m=1.2 b=0 mm_ok=1
XR2 VBG GND sub! rppd w=0.5e-6 l=192.395e-6 m=1 b=0 mm_ok=1
XM8 GND v- net2 GND sg13_lv_nmos w=150n l=10u ng=1 m=1 mm_ok=1
XM6 net2 net2 vdd vdd sg13_lv_pmos w=1u l=1u ng=1 m=1 mm_ok=1
XM7 net3 net2 vdd vdd sg13_lv_pmos w=1u l=1u ng=1 m=1 mm_ok=1
XM9 v- net3 vdd vdd sg13_lv_pmos w=200n l=4u ng=1 m=1 mm_ok=1
I1 net4 GND 80u
XC1 net3 GND cap_cmim w=18.195e-6 l=18.195e-6 m=1 mm_ok=1
x2 v- v+ GND vdd net4 Vo1 OTA
**** begin user architecture code


.control
.save all
op
dc TEMP -50 100 5
write bgr_temp.raw
.endc



.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/BTDay7-Ex/OTA.sym # of pins=6
** sym_path: /foss/designs/BTDay7-Ex/OTA.sym
** sch_path: /foss/designs/BTDay7-Ex/OTA.sch
.subckt OTA V- V+ VSS VDD iout vout
*.iopin VDD
*.iopin iout
*.iopin V-
*.iopin VSS
*.iopin V+
*.iopin vout
XM6 iout iout VDD VDD sg13_lv_pmos w=75u l=2.08u ng=8 m=1 mm_ok=1
XM7 net1 iout VDD VDD sg13_lv_pmos w=5.3u l=1.95u ng=1 m=1 mm_ok=1
XM8 net3 V- net1 VDD sg13_lv_pmos w=7.41u l=3.64u ng=1 m=1 mm_ok=1
XM9 net2 V+ net1 VDD sg13_lv_pmos w=7.41u l=3.64u ng=1 m=1 mm_ok=1
XM10 net3 net3 VSS VSS sg13_lv_nmos w=720n l=9.75u ng=1 m=1 mm_ok=1
XM11 net2 net3 VSS VSS sg13_lv_nmos w=720n l=9.75u ng=1 m=1 mm_ok=1
XM1 vout net2 VSS VSS sg13_lv_nmos w=28.8u l=9.75u ng=4 m=1 mm_ok=1
XM2 vout iout VDD VDD sg13_lv_pmos w=75u l=2.08u ng=8 m=1 mm_ok=1
XC1 net2 vout cap_cmim w=22.295e-6 l=22.295e-6 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
