** sch_path: /foss/designs/BTDay2-Ex/inverter.sch
**.subckt inverter VDD A Y VSS
VIN vin GND PULSE(0 1.2 0 1n 1n 4n 10n)
VDD vdd GND 1.2
x1 vdd vin vout GND inverter
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.tran 10p 100n
.save all




.inc /foss/designs/InverterBeta.spice


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/BTDay2-Ex/inverter.sym # of pins=4
** sym_path: /foss/designs/BTDay2-Ex/inverter.sym
** sch_path: /foss/designs/BTDay2-Ex/inverter.sch
.subckt inverter VDD A Y VSS
.ends

.GLOBAL GND
.end
