** sch_path: /foss/designs/BTDay6-Ex/inverter_sym.sch
.subckt inverter_sym

VIN vin GND PULSE(0 1.2 0 1n 1n 4n 10n)
VDD vdd GND 1.2
x1 vdd vin vout GND inverter
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.tran 10p 100n
.save all


**** end user architecture code
.ends

* expanding   symbol:  /foss/designs/BTDay6-Ex/inverter.sym # of pins=4
** sym_path: /foss/designs/BTDay6-Ex/inverter.sym
** sch_path: /foss/designs/BTDay6-Ex/inverter.sch
.subckt inverter VDD A Y VSS
*.PININFO A:I Y:O VDD:B VSS:B
MM1 Y A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 Y A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

.GLOBAL GND
