** sch_path: /foss/designs/pmos_tb.sch
**.subckt pmos_tb
VDS VDS 0 1.2
VGS VGS 0 1.2
XXM1 VDS VGS 0 0 sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.param temp =27
.control
save all
op
dc VDS 0 -1.2 -0.01 VGS 0 -1.2 -0.05
.endc


**** end user architecture code
**.ends
.end
